US04775671
7.10 g (19 mmol) of ethyl 7-bromo-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepin-3carboxylate in 30 ml of ethanol are heated to boiling for 20 minutes with a solution of 1.13 g (28 mmol) of sodium hydroxide in 15 ml of water. The solution is thereafter neutralized with 7 ml of 4N hydrochloric acid and the ethanol is removed on a rotary evaporator. After cooling the separated solid is filtered off under suction. After drying at 85° in vacuo there is obtained 7-bromo-5,6-dihydro-5-methyl-6-oxo-4H-imidazo-[1,5-a][1,4]benzodiazepine-3-carboxylic acid.

reactant | ethyl 7-bromo-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepin-3carboxylate | 19 mmol, 7.10 g | BrC1=CC=CC2=C1C(N(CC=1N2C=NC1C(=O)OCC)C)=O | C15H14BrN3O3
reactant | sodium hydroxide | 28 mmol, 1.13 g | [OH-].[Na+]
reactant | hydrochloric acid | 4N, 7 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 15 ml | O | H2O
product | 7-bromo-5,6-dihydro-5-methyl-6-oxo-4H-imidazo-[1,5-a][1,4]benzodiazepine-3-carboxylic acid | BrC1=CC=CC2=C1C(N(CC=1N2C=NC1C(=O)O)C)=O | C13H10BrN3O3
